US04962145
Glycerol dimontanate
A three-necked flask equipped with a stirrer, thermometer and descending Liebig condenser was charged with 19 g glycerol (0.207 mole), 165 g montanic acid (0.413 mole; Hoechst-Wachs S) and 0.4 g tin powder. The mixture was heated with stirring to 210° C. with application of a gentle vacuum which was increased to 20 mbar over a period of 1.5 h. Thereafter, the acid value had fallen to approximately 1. The mixture was cooled to 100° C., bleached and filtered. A pale yellow hard wax having a dropping point of 79° C. was obtained.

reactant | glycerol | 0.207 mole, 19 g | OCC(O)CO | C3H8O3
reactant | montanic acid | 0.413 mole, 165 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C28H56O2
reactant | tin | 0.4 g | [Sn] | Sn
product | Glycerol dimontanate | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)OCC(OC(CCCCCCCCCCCCCCCCCCCCCCCCCCC)=O)CO | C59H116O5
